US05698554
In acetic acid (100 ml) was dissolved 10.0 g of 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]-4,5-dihydropyridazin-3(2H)-one. 25 % hydrogen bromide-acetic acid (100 ml) was added to the solution, and the mixture was stirred at room temperature for 5 minutes. 2.9 g of dimethylsulfoxide was added to the mixture at room temperature, and the resulting mixture was stirred at the same temperature for 1 hour. Ethanol (150 ml) was added to the reaction mixture, and the mixture was stirred for 2 hours. Diisopropyl ether (150 ml) was further added to the mixture, and the resulting mixture was stirred for 2 hours. Precipitated crystal was collected by filtration, washed with diisopropyl ether and then dissolved in hydrated ethanol, and the solution was neutralized with aqueous ammonia. Precipitated crystal was collected by filtration, washed with water and then recrystallized from methanol to obtain 8.9 g of 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]pyridazin-3(2H)-one.

reactant | 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | 10.0 g | N1=CC(=CC=C1)C(=O)NCCCCC1=CC=C(C=C1)C=1CCC(NN1)=O | C20H22N4O2
reactant | hydrogen bromide acetic acid | 100 ml | Br.C(C)(=O)O
reactant | dimethylsulfoxide | 2.9 g | CS(=O)C | C2H6OS
reactant | Diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | Ethanol | 150 ml | C(C)O | C2H6O
product | 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]pyridazin-3(2H)-one | 8.9 g | N1=CC(=CC=C1)C(=O)NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C20H20N4O2
